US08309542B2
(a) 6,7-Dimethyl-4,5-dihydro-thieno[2,3-c]pyridinium iodide
A mixture of 4.64 g (31 mmol) 7-methyl-4,5-dihydro-thieno[2,3-c]pyridine (prepared analogously to J.Am.Chem.Soc., 1951, 1257), 8.0 ml (128 mmol) methyl iodide and 20 ml of ethyl acetate is stirred for 15 min. The precipitate formed is suction filtered, washed with ethyl acetate and dried in vacuo.

reactant | 7-methyl-4,5-dihydro-thieno[2,3-c]pyridine | 31 mmol, 4.64 g | CC1=NCCC2=C1SC=C2 | C8H9NS
reactant | methyl iodide | 128 mmol, 8.0 ml | CI | CH3I
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 6,7-Dimethyl-4,5-dihydro-thieno[2,3-c]pyridinium iodide | [I-].C[N+]1=C(C2=C(CC1)C=CS2)C | InChI=1S/C9H12NS.HI/c1-7-9-8(4-6-11-9)3-5-10(7)2;/h4,6H,3,5H2,1-2H3;1H/q+1;/p-1
